US06071934
Step 2: Methyl (E)-1-(4-methylthiobenzylidene)inden-3-ylacetate
To a solution of methyl inden-3-ylacetate (2 g, 10.6 mmol) in dry THF (20 mL) at -70° C. was added dropwise a solution of LDA in THF (25.7 mL, 0.87 M, 2.1 eq.). The resulting orange solution was stirred 30 minutes at -70° C. and then 4-methylthiobenzaldehyde (1.6 mL, 11.7 mmol, 1.1 eq.) was added dropwise. The cooling bath was removed and the reaction mixture was left to warm up to room temperature while a precipitate appeared. The reaction mixture was then quenched with a saturated aqueous solution of ammonium chloride and extracted twice with ethyl acetate. The organic phase was washed twice with 1N aqueous HCl, then with brine and dried over MgSO4 and evaporated to dryness. The residue was dissolved in methanol (5 mL) and a solution of benzyltrimethylammonium hydroxide in methanol (Triton B, 1.4 M) (6 mL) was added at room temperature. After 10 minutes the reaction mixture was added to 1N aqueous HCl and extracted with ethyl acetate. The organic layer was treated with etheral diazomethane, dried over MgSO4 and evaporated to dryness. The residue was chromatographed on silica gel eluting with a 95:5 mixture of hexane-ethyl acetate to afford the title compound, as an oil.

reactant | methyl inden-3-ylacetate | 10.6 mmol, 2 g | C1C=C(C2=CC=CC=C12)CC(=O)OC | C12H12O2
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | 4-methylthiobenzaldehyde | 11.7 mmol, 1.6 mL, 1.1 eq. | CC1=CC=C(C=S)C=C1 | C8H8S
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | THF | 0.87 M, 25.7 mL, 2.1 eq. | C1CCOC1 | C4H8O
product | Methyl (E)-1-(4-methylthiobenzylidene)inden-3-ylacetate | CSC1=CC=C(\C=C\2/C=C(C3=CC=CC=C23)CC(=O)OC)C=C1 | C20H18O2S
